US07553837B2
Step 1: Production of 5-(4-(±)-(5-nitro-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)aminophenyl)pyrazole
0.77 g of 5-(4-aminophenyl)pyrazole and 1.00 g of 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-aldehyde were dissolved in 33 ml of methylene chloride and 0.5 ml of acetic acid was added, followed by stirring at room temperature for 30 minutes. To the resulting reaction solution, 1.70 g of sodium triacetoxyborohydride was added, followed by stirring at room temperature for 20 hours. After the completion of the reaction, the reaction solution was poured into water, neutralized with an aqueous sodium hydroxide solution and then extracted with chloroform. The organic layer was washed with hydrochloric acid water, neutralized with an aqueous sodium hydroxide solution, and then the organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate. The solvent was concentrated under reduced pressure to obtain 1.5 g of the objective product.

reactant | 5-(4-aminophenyl)pyrazole | 0.77 g | NC1=CC=C(C=C1)C1=CC=NN1 | C9H9N3
reactant | 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-aldehyde | 1.00 g | CC1(OC=2C(C1)C(C(=C(C2C)C)[N+](=O)[O-])C)C=O | C13H17NO4
reactant | sodium triacetoxyborohydride | 1.70 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 33 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 5-(4-(±)-(5-nitro-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)aminophenyl)pyrazole | 1.5 g | [N+](=O)([O-])C1=C(C(=C2C(CC(O2)(C)CNC2=CC=C(C=C2)C2=CC=NN2)C1C)C)C | C22H26N4O3
